US07851626B2
rac-2-{4-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-4-ethyl-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-1-morpholin-4-yl-ethanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-4-ethyl-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 1-morpholin-4-yl-2-piperazin-1-yl-ethanone (Oakwood Products) to give the title compound. LC-MS: 722.3 [(M+H)+]

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-4-ethyl-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)OC)OC(C)C)CC | C28H27Cl3N2O3
reactant | 1-morpholin-4-yl-2-piperazin-1-yl-ethanone | N1(CCOCC1)C(CN1CCNCC1)=O | C10H19N3O2
product | rac-2-{4-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-4-ethyl-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-1-morpholin-4-yl-ethanone | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@@H]1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CC(=O)N1CCOCC1)C1=C(C=C(C=C1)OC)OC(C)C)CC | C38H45Cl2N5O5
